US06303605B1
a) 4-Bromo-1,2-dihydropyridazine-3,6-dione
Hydrazine hydrate (28 ml, 576 mmol) was added dropwise to a stirred solution of bromomaleic anhydride (100 g, 565 mmol) in THF (1 l) cooled in an ice-bath so that the internal temperature did not exceed 10° C. After complete addition of the hydrazine the mixture was refluxed for 18 h. Solvent was removed by evaporation and the residues were dried by azeotroping with toluene. The residue was triturated and washed with diethyl ether to give the title compound as an orange solid (83 g, 77%). 1H NMR (250 MHz , d6-DMSO) δ 7.68 (1H, br s). MS (ES+) m/e 193 [MH]+, 191 [MH]+. This material was used without further purification.

reactant | Hydrazine hydrate | 576 mmol, 28 ml | O.NN
reactant | bromomaleic anhydride | 565 mmol, 100 g | Br/C=1/C(=O)OC(\C1)=O | C4HBrO3
reactant | hydrazine | NN | H4N2
solvent | THF | 1 l | C1CCOC1 | C4H8O
product | 4-Bromo-1,2-dihydropyridazine-3,6-dione | 83 g, 77% | BrC=1C(NNC(C1)=O)=O | C4H3BrN2O2
